US04738959
2-Methylthio-3-methoxythiophene
To a stirred solution of 21 g of 3-methoxythiophene in diethyl ether at -40° C. was added 115 ml of a 1.6 molar hexane solution of n-butyllithium. The mixture was warmed slowly over 10 minutes to 0° C., then refluxed for 1 hour, was cooled to -78° C. and a solution containing 21.4 g of dimethyldisulphide in 100 ml of diethyl ether was added. The reaction mixture was warmed to room temperature and stirred for 30 minutes, was poured into water and the organic layer washed with water, with brine, and was then dried over magnesium sulphate and evaporated to dryness.

reactant | 3-methoxythiophene | 21 g | COC1=CSC=C1 | C5H6OS
reactant | hexane | 1.6 molar | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyldisulphide | 21.4 g | CSSC | C2H6S2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-Methylthio-3-methoxythiophene | CSC=1SC=CC1OC | C6H8OS2
